US08791090B2
[Step 4] Reactions and treatments were carried out in the same manner as in Step 2 of Example 117, using 89.3 mg of ethyl (2S,4S)-1-acetyl-4-hydroxyl-2-methyl-1,2,3,4-tetrahydroquinoline-6-carboxylate instead of ethyl (2S,4R)-1-acetyl-4-hydroxyl-2-methyl-1,2,3,4-tetrahydroquinoline-6-carboxylate, and 4-nitrophenol was used instead of benzoic acid. Thus, 73.6 mg (57.4%) of ethyl (2S,4R)-1-acetyl-2-methyl-4-(4-nitrophenoxy)-1,2,3,4-tetrahydroquinoline-6-carboxylate was obtained as a white solid.

reactant | ethyl (2S,4S)-1-acetyl-4-hydroxyl-2-methyl-1,2,3,4-tetrahydroquinoline-6-carboxylate | 89.3 mg | C(C)(=O)N1[C@H](C[C@@H](C2=CC(=CC=C12)C(=O)OCC)O)C | C15H19NO4
reactant | 4-nitrophenol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
product | ethyl (2S,4R)-1-acetyl-2-methyl-4-(4-nitrophenoxy)-1,2,3,4-tetrahydroquinoline-6-carboxylate | 73.6 mg, 57.4% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C(=O)OCC)OC1=CC=C(C=C1)[N+](=O)[O-])C | C21H22N2O6
